US04997472
Preparation of 3-chloro-2-[4-chloro-2-fluoro-5-(5,6-dihydro-2H-pyran-3-ylmethoxy)phenyl]-4,5,6,7-tetrahydroindazole
2.1 g (16 mmol) of 3-chloromethyl-5,6dihydro-2H-pyran were added at 25° C. to a mixture of 4.5 g (15 mmol) of 3-chloro-2-(4-chloro-2fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydroindazole, 2.5 g (18 mmol) of potassium carbonate and 0.5 g (3 mmol) of sodium iodide in 50 ml of dimethylformamide, and the reaction mixture was stirred for 12 hours. 100 ml of water were added, and the precipitate was isolated, washed with water and dried, resulting in 5 g (84%) of the title compound [melting point 90° to 92° C⟧ Compound No. 1.002.

reactant | 3-chloromethyl-5,6dihydro-2H-pyran | 16 mmol, 2.1 g | ClCC=1COCCC1 | C6H9ClO
reactant | 3-chloro-2-(4-chloro-2fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydroindazole | 15 mmol, 4.5 g | ClC=1N(N=C2CCCCC12)C1=C(C=C(C(=C1)O)Cl)F | C13H11Cl2FN2O
reactant | potassium carbonate | 18 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 3 mmol, 0.5 g | [I-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3-chloro-2-[4-chloro-2-fluoro-5-(5,6-dihydro-2H-pyran-3-ylmethoxy)phenyl]-4,5,6,7-tetrahydroindazole | 5 g, 84% | ClC=1N(N=C2CCCCC12)C1=C(C=C(C(=C1)OCC=1COCCC1)Cl)F | C19H19Cl2FN2O2
